US05292926
S-p-Methoxybenzyl-N-(2-p-Methoxybenzylthio-2-Methylpropionyl)-L-Cysteine (Compound No. 12)
To a stirred solution of N-(2-mercapto-2-methylpropionyl)-L-cysteine (2.0 g) in ethanol(10 ml), 4N sodium hydroxide solution(7.7 ml) and paramethoxybenzyl chloride(3.0 ml) were added dropwise under ice-cooling and under nitrogen atomosphere. After the addition, the reaction mixture was stirred for 2 hours under ice-cooling and 2 hours at room temperature. The reaction mixture was concentrated in vacuo, acidified with 2N hydrochloric acid and extracted with ether. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to give crystals. The crystals were recrystallized with ether to give 2.8 g(67%) of the titled compound.

reactant | N-(2-mercapto-2-methylpropionyl)-L-cysteine | 2.0 g | SC(C(=O)N[C@@H](CS)C(=O)O)(C)C | C7H13NO3S2
reactant | paramethoxybenzyl chloride | 3.0 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 4N, 7.7 ml | [OH-].[Na+]
product | S-p-Methoxybenzyl-N-(2-p-Methoxybenzylthio-2-Methylpropionyl)-L-Cysteine | 2.8 g, 67% | COC1=CC=C(CSC[C@H](NC(C(C)(C)SCC2=CC=C(C=C2)OC)=O)C(=O)O)C=C1 | C23H29NO5S2
